US06737440B2
Preparation of pyridine-2-thiocarboxamide
Adapting the general method of Taylor, a mixture of 2-cyanopyridine (7.28 g, 7.0 mmol) and thioacetamide (10.52 g, 14.0 mmol) was treated with 60 ml of HCl-saturated DMF, and the solution was stirred vigorously in an open flask on an oil bath set initially at 80° C. (the temperature gradually rising to 95° C. over the coarse of the reaction). Taylor, E. C. et al., J. Am. Chem. Soc. 1960, 82, 2656-2657. After 80 minutes (TLC monitoring), the resulting orange suspension was cooled, neutralized with con. NaOH/ice, and extracted with EtOAc. The extract was washed with water (3×) and then concentrated to a light brown solid which was triturated with warm water and collected. The dried product was passed over a silica gel column eluting with EtOAc:hexanes (2:1) to give, after removal of most of the solvent and dilution with hexanes, a yellow crystalline solid (6.36 g, 66%), mp 136-137° C.; lit mp 137° C.

reactant | 2-cyanopyridine | 7.0 mmol, 7.28 g | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | thioacetamide | 14.0 mmol, 10.52 g | C(C)(=S)N | C2H5NS
solvent | HCl | 60 ml | Cl | ClH
product | pyridine-2-thiocarboxamide | N1=C(C=CC=C1)C(N)=S | C6H6N2S
